US04096100
Preparation of 1,5-bis(ethanesulfonyl) carbohydrazide
A mixture of 45 g (0.5 mole) carbohydrazide, 85 g NaHCO3 (1.0 mole) and 250 ml methanol was stirred and 128.5 g (1.0 mole) ethane sulfonyl chloride was dropped in. The temperature rose from 25° to 45° C during the reaction which took 1 hour. Stirring was continued for two hours. The product was filtered, washed and dried. Yield: 145.9 g m.p. 195° C.

reactant | carbohydrazide | 0.5 mole, 45 g | NNC(=O)NN | CH6N4O
reactant | NaHCO3 | 1.0 mole, 85 g | C(=O)(O)[O-].[Na+]
reactant | ethane sulfonyl chloride | 1.0 mole, 128.5 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | methanol | 250 ml | CO | CH4O
product | 1,5-bis(ethanesulfonyl) carbohydrazide | C(C)S(=O)(=O)NNC(=O)NNS(=O)(=O)CC | C5H14N4O5S2
